US06440972B1
N-Chlorosuccinimide (4.05 g) was added to a stirred suspension of 1-(4-fluorophenylsulphonyl)-4-[1-(4-pyridyl)piperazin-4-ylcarbonyl]piperazine (12.45 g) in acetonitrile (500 mL) at 20° C. The mixture was stirred for 48 hours and the acetonitrile evaporated. Water (200 mL) was added to the residue and the aqueous phase extracted with dichloromethane (3×200 mL). The organic extracts were dried and evaporated. The residue was purified by column chromatography on silica gel, eluting with dichloromethane:methanol (97:3) to give a foam on evaporation. Trituration with diethyl ether (250 mL) gave 1-(4-fluorophenylsulphonyl)-4-[1-(3-chloro-4-pyridyl)piperazin-4-ylcarbonyl]piperazine as a pale yellow solid (9.18 g): mp 143-144° C.: NMR (CDCl3): 3.04(t, 4H), 3.15(t, 4H), 3.41(t, 8H), 6.78(d, 1H), 7.21(d, 2H), 7.78(m, 2H), 8.33(d, 1H), 8.42(s, 1H); EI-MS m/z 468(M+H).

reactant | N-Chlorosuccinimide | 4.05 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1-(4-fluorophenylsulphonyl)-4-[1-(4-pyridyl)piperazin-4-ylcarbonyl]piperazine | 12.45 g | FC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)N1CCN(CC1)C1=CC=NC=C1 | C20H24FN5O3S
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | 1-(4-fluorophenylsulphonyl)-4-[1-(3-chloro-4-pyridyl)piperazin-4-ylcarbonyl]piperazine | 9.18 g | FC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)N1CCN(CC1)C1=C(C=NC=C1)Cl | C20H23ClFN5O3S
